US07163936B2
To a solution of allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (640 mg, 1.04 mmol) in THF (30 ml) was added at 0° C. water and then the solution was adjusted to pH about 3 with 1N hydrochloric acid and stirred for 10 minutes. To the reaction solution was added an aqueous sodium hydrogen carbonate solution and the reaction mixture was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with silica gel chromatography (hexane/ethyl acetate=1/2) to give allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (547 mg, 97%) as a pale yellowish amorphous.

reactant | allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.04 mmol, 640 mg | C(C=C)OC(=O)N1CCC(=C[C@@H]1C)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C | C29H39N3O6S2Si
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 547 mg, 97% | C(C=C)OC(=O)N1CCC(=C[C@@H]1C)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C | C26H31N3O6S2
